US07498337B2
5-(2-fluoropyridin-3-yl)-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
5-Bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (3.15 g), (2-fluoropyridin-3-yl)boronic acid (2.83 g), sodium hydrogencarbonate (2.53 g) and tetrakis(triphenylphosphine)palladium (870 mg) were added to a degassed mixture of 1,2-dimethoxyethane (80 mL) and water (20 mL), and the mixture was stirred under a nitrogen atmosphere at 80° C. for 5 hr. The reaction mixture was allowed to cool, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:3) to give the title compound as a colorless oil (yield 2.25 g, 68%).

reactant | 5-Bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 3.15 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C=O | C11H8BrNO3S
reactant | (2-fluoropyridin-3-yl)boronic acid | 2.83 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium hydrogencarbonate | 2.53 g | C(O)([O-])=O.[Na+]
reactant | 1,2-dimethoxyethane | 80 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 870 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 5-(2-fluoropyridin-3-yl)-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 2.25 g, 68% | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C=O | C16H11FN2O3S
